US08207164B2
k) ((2R*,5R*)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-2,5-dimethyl-2-tri-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
To a solution of [(2R*,5R*)-5-(3-amino-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (0.1 g, 0.253 mmol) in DMF (2.5 ml) was added 5-bromo-pyridine-2-carboxylic acid (78 mg, 0.379 mmol), EDC (0.074 g, 0.379 mmol), HOAt (0.053 g, 0.379 mmol) and DIPEA (0.083 g, 0.632 mmol) and the reaction mixture was stirred for 2 h at 25° C. After evaporation of the DMF the residue was taken up in NaH2PO4 solution and extracted with EtOAc. Combined organic layers were washed with 5% NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated. The crude product was crystallized from diisopropylether to provide the title compound as a white crystalline solid: TLC (hexane/EtOAc 1:1): Rf=0.61; HPLC RtH5=1.565 min; 1H NMR (360 MHz, CDCl3): δ 11.01 (s, 1H), 9.92 (s, 1H), 8.71 (dd, 1H), 8.21 (d, 1H), 8.10 (dd, 1H), 7.87 (s, 1H), 7.73 (d, 1H), 7.46 (t, 1H), 7.18 (d, 1H), 4.10 (m, 2H), 1.75 (s, 3H), 1.67 (s, 3H), 1.58 (s, 9H); ESIMS: 571, 573 [(M+H)+].

reactant | [(2R*,5R*)-5-(3-amino-phenyl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 0.253 mmol, 0.1 g | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=CC(=CC=C1)N)(C(F)(F)F)C)=O | C18H24F3N3O3
reactant | 5-bromo-pyridine-2-carboxylic acid | 0.379 mmol, 78 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | EDC | 0.379 mmol, 0.074 g
reactant | HOAt | 0.379 mmol, 0.053 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIPEA | 0.632 mmol, 0.083 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | ((2R*,5R*)-5-{3-[(5-bromo-pyridine-2-carbonyl)-amino]-phenyl}-2,5-dimethyl-2-tri-fluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1[C@@](OC[C@@](N1)(C)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)(C(F)(F)F)C)=O | C24H26BrF3N4O4
